delta_loaded_network - fault test
Vin A 0 DC 12
Ca A B 1.6e-06
Rb B C 29.442433
Rc C A 30.401259
Rload B 0 30.415253
.op
.control
run
print v(A) v(B) v(C)
print @rb[i] @rc[i] @rload[i]
.endc
.end
